US07544835B2
Dimethyl 2-[4-methoxy-3-(2-{[(3-methoxyanilino)-carbonyl]oxy}ethyl)benzyl]malonate
Using dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate and 3-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C15H20O6
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
product | Dimethyl 2-[4-methoxy-3-(2-{[(3-methoxyanilino)-carbonyl]oxy}ethyl)benzyl]malonate | COC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CCOC(=O)NC1=CC(=CC=C1)OC | C23H27NO8
